US07790709B2
Preparation of (E)-N-Indan-5ylmethyl-N-methyl-3-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-3-yl)acrylamide
According to the procedure of Example 1 (a), except substituting indan-5-ylmethyl-methylamine for the methyl-(1-propyl-naphthalen-2-ylmethyl)amine, and substituting (E)-3-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-3yl)acrylic acid hydrochloride for the (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride, the title compound (0.232 g, 45%) was prepared as an off-white solid and as a mixture of amide rotamers: 1H NMR (300 MHz, DMSO-d6) δ 10.66-10.64 (m, 1H), 8.36-8.33 (m, 1H), 8.07-8.06 (m, 1H), 7.54-7.49 (m, 1H), 7.33-6.89 (m, 4H), 4.75-4.56 (m, 2H), 3.07-2.72 (m, 9H), 2.53-2.49 (m, 2H), 2.04-1.94 (m 2H); MS (APCI) m/e 362 (M+H)+.

reactant | indan-5-ylmethyl-methylamine | C1CCC2=CC(=CC=C12)CNC | C11H15N
reactant | methyl-(1-propyl-naphthalen-2-ylmethyl)amine | CNCC1=C(C2=CC=CC=C2C=C1)CCC | C15H19N
reactant | (E)-3-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-3yl)acrylic acid hydrochloride | Cl.O=C1CCC=2C=C(C=NC2N1)/C=C/C(=O)O
reactant | (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride | Cl.CN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
product | (E)-N-Indan-5ylmethyl-N-methyl-3-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-3-yl)acrylamide | 0.232 g, 45% | C1CCC2=CC(=CC=C12)CN(C(\C=C\C=1C=NC=2NC(CCC2C1)=O)=O)C | C22H23N3O2
